US06982278B2
3-(5-Methyl-2-phenyloxazol-4-yl)-acrylic acid, ethyl ester
5-Methyl-2-phenyloxazole-4-carbaldehyde [Hulin, et al., J. Med. Chem. (1992) 35(10), 1853-64] (5.62 g, 30 mmol), triethylphosphonoacetate (6.55 mL, 33 mmol), and LiOH (1.38 g, 33 mmol) were dissolved in anhydrous THF (150 mL) and stirred for 18 h at ambient temperature under an atmosphere of nitrogen. The reaction mixture was then diluted with ether (100 mL) and washed with saturated NH4Cl solution (100 mL), then water (100 mL). The aqueous layers were back-extracted with ether (100 mL) and the combined organic layers were again washed with water (100 mL). The ether layer was dried over MgSO4 and concentrated. The resultant residual solids were purified by column chromatography (250 mg silica, 100% hexanes to 10% EtOAc/hexanes) to provide a white crystalline solid (3.46 g, 45%): Rf=0.55 (50% hexanes/EtOAc); 1H NMR (400 MHz, CDCl3) δ 7.97-8.05 (m, 2H), 7.50 (d, 1H), 7.40-7.44 (m, 3H), 6.63 (d, 2H) 4.26 (q, 2H), 2.43 (s, 3H), 1.33 (t, 3H); MS(EI): 258 (M+1).

reactant | 5-Methyl-2-phenyloxazole-4-carbaldehyde | 30 mmol, 5.62 g | CC1=C(N=C(O1)C1=CC=CC=C1)C=O | C11H9NO2
reactant | LiOH | 33 mmol, 1.38 g | [Li+].[OH-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 3-(5-Methyl-2-phenyloxazol-4-yl)-acrylic acid, ethyl ester | 3.46 g, 45% | CC1=C(N=C(O1)C1=CC=CC=C1)C=CC(=O)OCC | C15H15NO3
